US07459472B2
5-Chloro-2-hydroxy-benzoic acid (2.5 g, 28.97 mmol) was coupled with 2-Amino-3-(4-bromo-phenyl)-propionic acid methyl ester hydrochloride (4.26 g, 28.96 mmol) with HBTU (6.59 gms, 34.76 mmol) and diisopropylethylamine (8 ml, 86.91 mmol) as per general procedure A to yield the 3-(4-Bromo-phenyl)-(2S)-(5-chloro-2-hydroxy-benzoylamino)-propionic acid methyl ester. The above hydroxy compound (0.500 g, 1.21 g) was then alkylated with heptyliodide (0.410 g, 1.815 mmol) and potassium carbonate (0.050 g, 3.025 mmol) as per general procedure G to yield the 3-(4-Bromo-phenyl)-(2S)-(5-chloro-2-heptyloxy-benzoylamino)-propionic acid methyl ester (0.500 g).

reactant | 5-Chloro-2-hydroxy-benzoic acid | 28.97 mmol, 2.5 g | ClC=1C=CC(=C(C(=O)O)C1)O | C7H5ClO3
reactant | 2-Amino-3-(4-bromo-phenyl)-propionic acid methyl ester hydrochloride | 28.96 mmol, 4.26 g | Cl.COC(C(CC1=CC=C(C=C1)Br)N)=O
reactant | HBTU | 34.76 mmol, 6.59 gms | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 86.91 mmol, 8 ml | C(C)(C)N(CC)C(C)C | C8H19N
product | 3-(4-Bromo-phenyl)-(2S)-(5-chloro-2-hydroxy-benzoylamino)-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)Br)NC(C1=C(C=CC(=C1)Cl)O)=O)=O | C17H15BrClNO4
